US06288096B1
1.83 g (15 mmole) 4-hydroxybenzaldehyde was dissolved in 35 ml dichloromethane under argon atmosphere. 1.5 g (7.5 mmole) 2-[4-(methylsulfonyl)phenyl]-1-ethanol was added followed by 3.93 g (15 mmole) triphenylphosphine and 3.78 g (15 mmole) 1,1-(azodicarbonyl)dipiperidine. The reaction mixture was stirred at room temperature and after 2 hours a precipitate is observed. The reaction was disrupted after 5 hours and the reaction mixture was filtered. The filtrate was purified by chromatography on silica gel using dichloromethane:methanol (98:2) as eluent giving 1.66 g (yield 54.5%) of 4-[2-(4-formylphenoxy)ethyl]phenyl methyl sulfone.

reactant | 4-hydroxybenzaldehyde | 15 mmole, 1.83 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 2-[4-(methylsulfonyl)phenyl]-1-ethanol | 7.5 mmole, 1.5 g | CS(=O)(=O)C1=CC=C(C=C1)CCO | C9H12O3S
reactant | triphenylphosphine | 15 mmole, 3.93 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,1-(azodicarbonyl)dipiperidine | 15 mmole, 3.78 g | C1CCN(CC1)C(=O)/N=N/C(=O)N2CCCCC2 | C12H20N4O2
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | 4-[2-(4-formylphenoxy)ethyl]phenyl methyl sulfone | 1.66 g, yield 54.5% | CS(=O)(=O)C1=CC=C(C=C1)CCOC1=CC=C(C=C1)C=O | C16H16O4S
